US05185360
5,10-Dihydro-10-methylindeno[1,2-b]indole
3-Methyl-1-indanone (500 mg, 3,42 mmol) prepared by an analogous method to that described by A. M. Weidler et al., Acta Chem. Scand., 18 p. 148 (1964) and phenylhydrazine (0.35 cm3, 3.5 mmol), were heated to reflux in glacial acetic acid (20 cm3). After 2 minutes concentrated hydrochloric acid (1 cm3) was added down the reflux condenser. Boiling was continued for 75 minutes and then the reaction was cooled. The solution was poured into ice/water and extracted into ethyl acetate. The extracts were washed consecutively with brine and then water, and dried (MgSO4). Evaporation of solvent in vacuo, and column chromatography of the residue (10% EtOAc/petrol [60°-80° C.]) yielded the title compound as a cream solid. Yield: 320 mg (43%). M.p. 153°-155° C. 1H NMR (DMSO-d6) δ: 1.50 (3H, d,), 3.85 (1H, q.), 7.0-7.6 (8H, m.), 11.55 (1H, s,).

reactant | 3-Methyl-1-indanone | 3,42 mmol, 500 mg | CC1CC(C2=CC=CC=C12)=O | C10H10O
reactant | phenylhydrazine | 3.5 mmol, 0.35 cm3 | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | acetic acid | 20 cm3 | C(C)(=O)O | C2H4O2
product | 5,10-Dihydro-10-methylindeno[1,2-b]indole | CC1C2=CC=CC=C2C=2NC=3C=CC=CC3C21 | C16H13N
